US06897231B2
B. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-phenoxypropanamide
N-(3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-2-phenoxypropanamide was dissolved in 4 mL of 4.0 N HCl in 1,4-dioxane and the reaction was stirred at room temperature overnight. After neutralization with aqueous NaHCO3, the reaction mixture was evaporated to dryness and purified by preparative HPLC. (0.062 g, 59% yield over 2 steps): 1H NMR (CD3OD) δ 8.73 (s, 1H), 8.17 (t, 1H), 8.1 (d, 1H), 7.8-7.67 (m, 3H), 7.51 (t, 1H), 7.34-7.27 (m, 2H), 7.06-6.95 (m, 3H), 4.87 (q, 1H), 1.68 (d, 3H); ES-MS (m/z) 425 [M+H]+.

reactant | N-(3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-2-phenoxypropanamide | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(C(C)OC1=CC=CC=C1)=O | C48H42N6O3
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-2-phenoxypropanamide | 59% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(C(C)OC1=CC=CC=C1)=O | C24H20N6O2
